US04513002
1120 ml of a 20 percent (v/v) solution of diisobutylaluminum hydride in toluene are added dropwise over a period of 1 hour while cooling to a solution of 160.36 g of ethyl 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetate in 1 l of dry toluene, cooled in ice-water and stirred under argon. The solution is subsequently stirred at room temperature for 16.5 hours, cautiously treated while cooling with 20 ml of dry methanol, stirred for an additional 30 minutes and finally acidified with 1.5 l of 3N hydrochloric acid while cooling well. The organic phase is separated and washed with 1 l of water and the acidic-aqueous phase is back-extracted twice more with 2 l of ether each time. After washing the ethereal extracts with 1 l of water, the organic phases are combined, dried over magnesium sulfate and evaporated. The residue is taken up twice in 200 ml of dry toluene each time, the solutions obtained being in each case again evaporated to dryness. There is obtained 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol in the form of an oil which crystallizes only slowly upon standing.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetate | 160.36 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CC(=O)OCC | C19H20O2
reactant | methanol | 20 ml | CO | CH4O
reactant | hydrochloric acid | 3N, 1.5 l | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCO | C17H18O
